US08372867B2
To a solution of 1-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-methylphenyl}methanamine (0.2 g) and acetic anhydride (0.1 g) in dichloromethane (50 mL), triethylamine (0.1 g) in dichloromethane (5 mL) was added dropwise under ice cooling, and the mixture was then stirred for one hour at room temperature. The reaction mixture was washed with water, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was then purified by silica gel chromatography to yield N-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-methylbenzyl}acetamide (0.2 g).

reactant | 1-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-methylphenyl}methanamine | 0.2 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)CN)C)C(F)(F)F | C18H15Cl2F3N2O
reactant | acetic anhydride | 0.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-methylbenzyl}acetamide | 0.2 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(CNC(C)=O)C=C1)C)C(F)(F)F | C20H17Cl2F3N2O2
